US07812028B2
Preparation of 5-(4-Chloro-phenyl)-N—((R)-1-hydroxymethyl-pentyl)-6-(2-methoxy-ethoxy)-nicotinamide
The title compound was synthesized in analogy to the procedure described for the preparation of Example 6, using 5-bromo-1,6-dihydro-6-oxo-3-pyridinecarboxylic acid methyl ester, 2-methoxy-ethanol (commercially available), 4-chlorophenyl-boronic acid (commercially available) and (R)-(−)-2-amino-1-hexanol (commercially available) as starting materials. MS (ISP): 407.4 (M+H+).

reactant | 5-bromo-1,6-dihydro-6-oxo-3-pyridinecarboxylic acid methyl ester | COC(=O)C1=CNC(C(=C1)Br)=O | C7H6BrNO3
reactant | 4-chlorophenyl-boronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | (R)-(−)-2-amino-1-hexanol | N[C@@H](CO)CCCC | C6H15NO
reactant | 2-methoxy-ethanol | COCCO | C3H8O2
product | 5-(4-Chloro-phenyl)-N—((R)-1-hydroxymethyl-pentyl)-6-(2-methoxy-ethoxy)-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)N[C@H](CCCC)CO)C1)OCCOC | C21H27ClN2O4
